US08669208B2
1-Propyl-3-(2,2,7-trifluoro-3-oxo-4-prop-2-ynyl-3,4-dihydro-2H-benzo[1,4]oxazin-6-yl)-thiourea
Propan-1-amine (0.937 ml, 11.74 mmol) was added to a stirred solution of 2,2,7-trifluoro-6-isothiocyanato-4-(prop-2-ynyl)-2H-benzo[b][1,4]oxazin-3(4H)-one (the product of Step 4.1 above, 1.0 g, 3.35 mmol) in dichloromethane (10 ml) at room temperature under nitrogen. The resulting mixture was stirred at room temperature for 1 hour, by which time TLC analysis indicated that the reaction was complete. The reaction mixture was evaporated in vacuo to yield 1.3 g of the desired product (purity>95%), which was used without further purification in the next step.

reactant | Propan-1-amine | 11.74 mmol, 0.937 ml | C(CC)N | C3H9N
reactant | 2,2,7-trifluoro-6-isothiocyanato-4-(prop-2-ynyl)-2H-benzo[b][1,4]oxazin-3(4H)-one | FC1(C(N(C2=C(O1)C=C(C(=C2)N=C=S)F)CC#C)=O)F | C12H5F3N2O2S
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 1-Propyl-3-(2,2,7-trifluoro-3-oxo-4-prop-2-ynyl-3,4-dihydro-2H-benzo[1,4]oxazin-6-yl)-thiourea | 1.3 g | C(CC)NC(=S)NC=1C(=CC2=C(N(C(C(O2)(F)F)=O)CC#C)C1)F | C15H14F3N3O2S
